US07745641B2
In a similar manner to Step 4 of Example 16, 4-chloro-5-methoxy-3-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone (300 mg, 0.655 mmol) was dissolved in nitromethane (5 mL), and the solution was treated with trifluoroacetic acid (0.505 mL, 6.55 mmol) and triethylsilane (0.212 mL, 1.31 mmol), followed by stirring at room temperature for 24 hours. The reaction mixture was added with water, ethyl acetate and hexane. The precipitated solid was collected by filtration and washed with hexane and water, followed by drying under reduced pressure to obtain 4-chloro-5-methoxy-7-iodoisoindolinone (136 mg, yield 64%).

reactant | 4-chloro-5-methoxy-3-hydroxy-7-iodo-2-(1-methyl-1-phenylethyl)isoindolinone | 0.655 mmol, 300 mg | ClC1=C2C(N(C(C2=C(C=C1OC)I)=O)C(C)(C1=CC=CC=C1)C)O | C18H17ClINO3
reactant | trifluoroacetic acid | 6.55 mmol, 0.505 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 1.31 mmol, 0.212 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | water | O | H2O
solvent | nitromethane | 5 mL | [N+](=O)([O-])C | CH3NO2
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-chloro-5-methoxy-7-iodoisoindolinone | 136 mg, yield 64% | ClC1=C2CNC(C2=C(C=C1OC)I)=O | C9H7ClINO2
